US07989637B2
A solution of 5-azido-4′-methyl-biphenyl-3-carboxylic acid (2-methoxy-1-methyl-ethyl)-amide (488 mg, 1.5 mmol), ethynyltrimethylsilane (4.5 mmol, 0.64 mL) in DMF (6 mL) was heated to 110° C. for 16 hours. The mixture was cooled and filtered, and the filtrate was purified by preparative HPLC to afford 262 mg of 4′-methyl-5-[1,2,3]triazol-1-yl-biphenyl-3-carboxylic acid (2-methoxy-1-methyl-ethyl)-amide as white solid (50%). MS (M+H)=351.

reactant | 5-azido-4′-methyl-biphenyl-3-carboxylic acid (2-methoxy-1-methyl-ethyl)-amide | 1.5 mmol, 488 mg | COCC(C)NC(=O)C=1C=C(C=C(C1)N=[N+]=[N-])C1=CC=C(C=C1)C | C18H20N4O2
reactant | ethynyltrimethylsilane | 4.5 mmol, 0.64 mL | C(#C)[Si](C)(C)C | C5H10Si
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 4′-methyl-5-[1,2,3]triazol-1-yl-biphenyl-3-carboxylic acid (2-methoxy-1-methyl-ethyl)-amide | 262 mg, 50% | COCC(C)NC(=O)C=1C=C(C=C(C1)N1N=NC=C1)C1=CC=C(C=C1)C | C20H22N4O2
